US04112096
9-Chloro-2-[(acetyloxy)methyl]pyrazolo[1,5-c]quinazolin-5(6H)-one
2.50 g (0.01 mole) of 9-chloro-2-(hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one and 1.02 g of acetic anhydride in 50 ml pyridine are stirred for 12 hours then refluxed for 30 minutes. The reaction is evaporated; the residue is taken up in chloroform, washed with dilute aqueous sodium bicarbonate, with water and dried. The solvent is evaporated to give the title compound.

reactant | 9-chloro-2-(hydroxymethyl)pyrazolo[1,5-c]quinazolin-5(6H)-one | 0.01 mole, 2.50 g | ClC1=CC=2C=3N(C(NC2C=C1)=O)N=C(C3)CO | C11H8ClN3O2
reactant | acetic anhydride | 1.02 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 9-Chloro-2-[(acetyloxy)methyl]pyrazolo[1,5-c]quinazolin-5(6H)-one | ClC1=CC=2C=3N(C(NC2C=C1)=O)N=C(C3)COC(C)=O | C13H10ClN3O3
